US08026261B2
A solution of NaOH (1.77 g dissolved in 20 mL, 44.4 mmol) in de-ionized water was added dropwise to a suspension of 3-hydroxy-1-methyl-2-(2,2,2-trifluoro-1-hydroxy-ethyl)-1H-pyridin-4-one (9.00 g, 40.3 mmol) in methanol (100 mL), and followed by benzyl bromide (5.28 mL, 44.4 mmol) at room temperature. The resulting suspension was refluxed for 3.5 h, and then stirred at RT for overnight. Methanol was removed under vacuum using the rotary evaporator, and the residue was diluted with water and extracted two times with CH2Cl2 (2×100 mL). The combined organic fractions were washed with brine, dried over anhydrous sodium sulfate, filtered and concentrated to dryness. The residue was purified by flash column chromatography on silica gel using a mixture of methanol and ethyl acetate (10/90, v/v) as eluant. Fractions rich in the product were pooled together and evaporated to dryness to give 4 g of 3-benzyloxy-1-methyl-2-(2,2,2-trifluoro-1-hydroxy-ethyl)-1H-pyridin-4-one as a solid.

reactant | NaOH | 44.4 mmol, 20 mL, 1.77 g | [OH-].[Na+]
reactant | 3-hydroxy-1-methyl-2-(2,2,2-trifluoro-1-hydroxy-ethyl)-1H-pyridin-4-one | 40.3 mmol, 9.00 g | OC1=C(N(C=CC1=O)C)C(C(F)(F)F)O | C8H8F3NO3
reactant | benzyl bromide | 44.4 mmol, 5.28 mL | C(C1=CC=CC=C1)Br | C7H7Br
solvent | water | O | H2O
solvent | methanol | 100 mL | CO | CH4O
product | 3-benzyloxy-1-methyl-2-(2,2,2-trifluoro-1-hydroxy-ethyl)-1H-pyridin-4-one | 4 g | C(C1=CC=CC=C1)OC1=C(N(C=CC1=O)C)C(C(F)(F)F)O | C15H14F3NO3
